US07718693B2
Ethyl 1-ethyl-5-oxoprolinate (1.33 g, 7.18 mmol) was dissolved in ethanol (10 ml) and cooled to 0° C. in an ice bath. To this was added 12.5M aqueous sodium hydroxide solution (1.72 ml, 21.53 mmol) and the mixture was stirred for ˜4 hours at 0° C. The ethanol was evaporated under vacuum and the aqueous residue was acidified with 2N aqueous hydrogen chloride to pH1. The volume of the aqueous phase was reduced to ˜3 ml under vacuum and then extracted with a 3:1 mixture of chloroform and isopropanol using a phase separator. The combined organic layers were concentrated to a pale yellow oil which on drying in vacuo crystallized to give 1-ethyl-5-oxoproline as a white solid (1.12 g).

reactant | Ethyl 1-ethyl-5-oxoprolinate | 7.18 mmol, 1.33 g | C(C)N1[C@H](C(=O)OCC)CCC1=O | C9H15NO3
reactant | sodium hydroxide | 21.53 mmol, 12.5M, 1.72 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-ethyl-5-oxoproline | 1.12 g | C(C)N1[C@H](C(=O)O)CCC1=O | C7H11NO3
